US04478740
A mixture of 28.9 g of 2-ethoxy-5-(trans-4-propyl-cyclohexyl)-benzaldoxime (obtainable from the aldehyde and hydroxylamine) and 40 ml of acetic anhydride is heated until the exothermic reaction starts, and is then boiled for 20 minutes and poured into water to give 2-ethoxy-5-(trans-4-propyl-cyclohexyl)-benzonitrile of m.p. 32°.

reactant | 2-ethoxy-5-(trans-4-propyl-cyclohexyl)-benzaldoxime | 28.9 g | C(C)OC1=C(C=NO)C=C(C=C1)[C@@H]1CC[C@H](CC1)CCC | C18H27NO2
reactant | hydroxylamine | NO | H3NO
reactant | acetic anhydride | 40 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 2-ethoxy-5-(trans-4-propyl-cyclohexyl)-benzonitrile | C(C)OC1=C(C#N)C=C(C=C1)[C@@H]1CC[C@H](CC1)CCC | C18H25NO
